US05885990
Preparation of 6-amidino-1-carbamoylmethyl-2-naphthyl 4-morpholinomethylbenzoate.dihydrochloride:
15 Milliliters of anhydrous pyridine was added to 612.2 mg of 4-morpholinomethylbenzoic acid, 703.9 mg of 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride, 622.6 mg of DCC and 30.7 mg of DMAP, followed by stirring for 2 hours under cooling with ice and then 3 days under cooling with water. Thereafter, the same procedure as in Example 1 was carried out to obtain 440.7 mg of the desired product.

reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | 4-morpholinomethylbenzoic acid | 612.2 mg | O1CCN(CC1)CC1=CC=C(C(=O)O)C=C1 | C12H15NO3
reactant | 6-amidino-1-carbamoylmethyl-2-naphthol.hydrochloride | 703.9 mg | Cl.C(N)(=N)C=1C=C2C=CC(=C(C2=CC1)CC(N)=O)O
reactant | DCC | 622.6 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
catalyst | DMAP | 30.7 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | water | O | H2O
product | 6-amidino-1-carbamoylmethyl-2-naphthyl 4-morpholinomethylbenzoate.dihydrochloride | 440.7 mg | Cl.Cl.O1CCN(CC1)CC1=CC=C(C(=O)OC2=C(C3=CC=C(C=C3C=C2)C(N)=N)CC(N)=O)C=C1 | InChI=1S/C25H26N4O4.2ClH/c26-23(30)14-21-20-7-5-19(24(27)28)13-18(20)6-8-22(21)33-25(31)17-3-1-16(2-4-17)15-29-9-11-32-12-10-29;;/h1-8,13H,9-12,14-15H2,(H2,26,30)(H3,27,28);2*1H
